US06028195
1-[(2-Methoxy-6-methyl-5-propylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(2-methoxy-6-methyl-5-propylpyridin-3-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(2-methoxy-6-methyl-5-propylpyridin-3-yl)carbamate | COC1=NC(=C(C=C1NC(OC1=CC=CC=C1)=O)CCC)C | C17H20N2O3
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(2-Methoxy-6-methyl-5-propylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 64% | COC1=NC(=C(C=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C)CCC)C | C23H32N4O2
